US05654484
Step A: N,N'-Bis((phenyl)methyl)-1,8-octanediamine
Combine 14.4 g (0.1 mol) of 1,8-octanediamine, 20.3 ml (0.2 mol) of benzaldehyde, 0.3 g PtO2 and 150 ml ethanol and treat the mixture with H2 at 45 lb/in2 in a shaker flask until no more gas is taken up. Remove the catalyst by filtration and remove the solvent at reduced pressure to yield the title compound.

reactant | 1,8-octanediamine | 0.1 mol, 14.4 g | C(CCCCCCCN)N | C8H20N2
reactant | benzaldehyde | 0.2 mol, 20.3 ml | C(C1=CC=CC=C1)=O | C7H6O
catalyst | PtO2 | 0.3 g | O=[Pt]=O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N,N'-Bis((phenyl)methyl)-1,8-octanediamine | C1(=CC=CC=C1)CNCCCCCCCCNCC1=CC=CC=C1 | C22H32N2
